US06262045B1
11.8. 7-Chloro-N,N-diethyl-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetamide
0.41 ml (4 mmol) of diethylamine is added at 0° C. under argon to a solution of 2 ml (4 mmol) of trimethylaluminium (2M in toluene) in 30 ml of toluene, the reaction mixture is stirred for 20 min at room temperature, 0.095 g (0.25 mmol) of methyl 7-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]-indole-1-acetate is added and the reaction mixture is stirred for 4 h at reflux. The mixture is cooled to 4° C., 3 ml of water and dichloromethane are added, the solution is filtered and the filtrate is concentrated under reduced pressure. Water, 1M hydrochloric acid and 150 ml of dichloromethane are added to the residue, the organic phase is separated, washed with water, dried over sodium sulphate, filtered and concentrated under reduced pressure and the residue is purified by chromatography on a column of silica gel. After recrystallization from diethyl ether, 0.10 g (0.24 mmol) of compound is isolated in the form of a white solid with a fluffy appearance.

reactant | diethylamine | 4 mmol, 0.41 ml | C(C)NCC | C4H11N
reactant | trimethylaluminium | 4 mmol, 2M, 2 ml | C[Al](C)C
reactant | methyl 7-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]-indole-1-acetate | 0.25 mmol, 0.095 g | ClC=1C=CC=2C3=C(N(C2C1)C)C(N(N=C3CC(=O)OC)C3=CC=CC=C3)=O | C20H16ClN3O3
reactant | water | 3 ml | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-Chloro-N,N-diethyl-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetamide | 0.24 mmol, 0.10 g | ClC=1C=CC=2C3=C(N(C2C1)C)C(N(N=C3CC(=O)N(CC)CC)C3=CC=CC=C3)=O | C23H23ClN4O2
